US04764519
(g) 3-[4-(5-Bromo-3-methylpyrid-2-yl)butyl]-6-(pyrid-3-ylmethyl)-3H-1,2,3-Triazolo[5,4-b]pyridine
Sodium nitrite (0.33 g) in water (20 ml) was added over 15 minutes to a solution of 3-amino-2-[4-(5-bromo-3-methylpyrid-2-yl)butylamino]-5-(pyrid-3-ylmethyl)pyridine (2.0 g) in molar sulphuric acid (100 ml) stirred at 4° C. The solution was then allowed to warm to room temperature, basified with concentrated ammonium hydroxide solution and extracted with chloroform (3×100 ml). The chloroform extracts were combined, dried over magnesium sulphate, and the solvent removed to give a product which was recrystallised from acetonitrile to give the title compound (1.49 g) as prisms, m.p. 114°-115° C.

reactant | Sodium nitrite | 0.33 g | N(=O)[O-].[Na+]
reactant | 3-amino-2-[4-(5-bromo-3-methylpyrid-2-yl)butylamino]-5-(pyrid-3-ylmethyl)pyridine | 2.0 g | NC=1C(=NC=C(C1)CC=1C=NC=CC1)NCCCCC1=NC=C(C=C1C)Br | C21H24BrN5
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 20 ml | O | H2O
solvent | sulphuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 3-[4-(5-Bromo-3-methylpyrid-2-yl)butyl]-6-(pyrid-3-ylmethyl)-3H-1,2,3-Triazolo[5,4-b]pyridine | 1.49 g | BrC=1C=C(C(=NC1)CCCCN1N=NC=2C1=NC=C(C2)CC=2C=NC=CC2)C | C21H21BrN6
